US08349865B2
Step 1: 5-{[(9H-Fluoren-9-ylmethoxy)carbonyl]amino}-2,4-dimethylbenzenesulfonic acid
To a solution of 5-amino-2,4-dimethylbenzenesulfonic acid sodium salt (3.0 g, 13.4 mmol) in dioxane (37 mL) and water (37 ml) was added NaHCO3 (2.5 g, 29.6 mmol) and 9-fluoreneylmethyl chloroformate. The mixture was then stirred at room temperature overnight and then quenched with 1N HCl and extracted with EtOAc. The organic layers were concentrated in vacuo. Purification by silica gel chromatography (0-10% MeOH/DCM) resulted in the title compound.

reactant | 5-amino-2,4-dimethylbenzenesulfonic acid sodium salt | 13.4 mmol, 3.0 g | [Na+].NC=1C(=CC(=C(C1)S(=O)(=O)[O-])C)C
reactant | NaHCO3 | 29.6 mmol, 2.5 g | C(=O)(O)[O-].[Na+]
reactant | 9-fluoreneylmethyl chloroformate | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
solvent | dioxane | 37 mL | O1CCOCC1 | C4H8O2
solvent | water | 37 ml | O | H2O
product | 5-{[(9H-Fluoren-9-ylmethoxy)carbonyl]amino}-2,4-dimethylbenzenesulfonic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC=1C(=CC(=C(C1)S(=O)(=O)O)C)C | C23H21NO5S
